US04472310
6.4 g of 3β-benzoyloxy-15β,16β-methylene-5-androsten-17-one was stirred in 64 ml of tetrahydrofuran with 6.4 g of lithium tri-tert.-butoxyaluminohydride for 1 hour at room temperature. The solution was then diluted with ether, washed with 2N sulfuric acid and water, dried, and evaporated, yielding as the residue 6.5 g of 3β-benzoyloxy-15β,16β-methylene-5-androsten-17β-ol, used without further purification in the subsequent stage.

reactant | 3β-benzoyloxy-15β,16β-methylene-5-androsten-17-one | 6.4 g | C(C1=CC=CC=C1)(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4[C@H]5[C@@H](C([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)C5 | C27H32O3
reactant | lithium tri-tert.-butoxyaluminohydride | 6.4 g | C(C)(C)(C)O[AlH-](OC(C)(C)C)OC(C)(C)C.[Li+]
solvent | tetrahydrofuran | 64 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 3β-benzoyloxy-15β,16β-methylene-5-androsten-17β-ol | 6.5 g | C(C1=CC=CC=C1)(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4[C@H]5[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)O)C5 | C27H34O3
